US06943183B2
1. 6-((S)-1-imidazol-1-ylmethyl-2-methyl-propoxy)-5-nitro-3,4-dihydro-2H-naphthalen-1-one
To a solution of 6-hydroxy-5-nitro-1-tetralone (0.888 g, 4.29 mmol) in dry THF (10 mL) was added (R)-1-imidazol-1-ylmethyl-2-methyl-propanol (0.737 g, 4.78 mmol) followed by triphenylphospine (1.26 g, 4.78 mmol). After approximately 10 min, diethylazodicarboxylate (0.75 mL, 4.78 mmol) was added slowly. The reaction was allowed to stir at RT for 2 days. The reaction mixture was concentrated under reduced pressure and the residue was purified by chromatography (SiO2, 20% acetone/CH2Cl2 then 5% MeOH/CH2Cl2) afforded the title compound as a foam (1.02 g, 2.97 mmol, 69%). The structure was confirmed by NMR and mass spectrometry. MS m/z 344 (M++H). 2. 5-Amino-6-((S)-1-imidazol-1-ylmethyl-2-methyl-propoxy)-3,4-dihydro-2H-naphthalen-1-one

reactant | 6-hydroxy-5-nitro-1-tetralone | 4.29 mmol, 0.888 g | OC=1C(=C2CCCC(C2=CC1)=O)[N+](=O)[O-] | C10H9NO4
reactant | (R)-1-imidazol-1-ylmethyl-2-methyl-propanol | 4.78 mmol, 0.737 g | N1(C=NC=C1)C[C@@H](C(C)C)O | C8H14N2O
reactant | triphenylphospine | 4.78 mmol, 1.26 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | 4.78 mmol, 0.75 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | MeOH CH2Cl2 | CO.C(Cl)Cl
product | 6-((S)-1-imidazol-1-ylmethyl-2-methyl-propoxy)-5-nitro-3,4-dihydro-2H-naphthalen-1-one | 2.97 mmol, 1.02 g, 69% | N1(C=NC=C1)C[C@H](C(C)C)OC=1C(=C2CCCC(C2=CC1)=O)[N+](=O)[O-] | C18H21N3O4
